US04001017
c. 1,2,3-Trimethyl-6,7-dimethoxyquinoxalinium iodide
5.5 g (0.025 mol) of 2,3-dimethyl-6,7-dimethoxyquinoxaline are dissolved in 30 ml of methyl iodide in a 100 ml stirred autoclave. This solution is warmed to 100°C for 24 hours whilst stirring, in the course of which the pressure rises to about 7 atmospheres gauge. After cooling to room temperature, the yellow precipitate is filtered off, rinsed with a little dry acetone and dried. Yield about 6.5 g, corresponding to 72% of theory. Melting point 210° to 212°C (decomposition). The IR (KBr) and NMR (DMSO-d6) spectrum agree with the postulated structure.

reactant | 2,3-dimethyl-6,7-dimethoxyquinoxaline | 0.025 mol, 5.5 g | CC1=NC2=CC(=C(C=C2N=C1C)OC)OC | C12H14N2O2
reactant | methyl iodide | 30 ml | CI | CH3I
product | 1,2,3-Trimethyl-6,7-dimethoxyquinoxalinium iodide | [I-].C[N+]1=C(C(=NC2=CC(=C(C=C12)OC)OC)C)C | InChI=1S/C13H17N2O2.HI/c1-8-9(2)15(3)11-7-13(17-5)12(16-4)6-10(11)14-8;/h6-7H,1-5H3;1H/q+1;/p-1
